US08975400B2
(4-(3,4-difluorophenoxy)-3-fluorophenyl)methanamine
To a mixture of 4-(3,4-difluorophenoxy)-3-fluorobenzaldehyde (300 mg, 1.19 mmol) and 7 M NH3 in MeOH (10 mL) was added titanium isopropoxide (0.712 mL, 2.38 mmol). The reaction mixture was stirred overnight at rt. Then, NaBH4 (54.0 mg, 1.43 mmol) was added in portions. The mixture was stirred at rt for 4 h, and quenched with water and filtered. The organic part was extracted with ethyl acetate. Combined organic portions were dried over Na2SO4, filtered and concentrated. Purification via Biotage reverse phase chromatography (acetonitrile/water, 5%-95% with 0.25% TFA) afforded the title product (100 mg) as a white solid.

reactant | 4-(3,4-difluorophenoxy)-3-fluorobenzaldehyde | 1.19 mmol, 300 mg | FC=1C=C(OC2=C(C=C(C=O)C=C2)F)C=CC1F | C13H7F3O2
reactant | NH3 | 7 M | N | H3N
reactant | NaBH4 | 1.43 mmol, 54.0 mg | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
catalyst | titanium isopropoxide | 2.38 mmol, 0.712 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (4-(3,4-difluorophenoxy)-3-fluorophenyl)methanamine | 100 mg | FC=1C=C(OC2=C(C=C(C=C2)CN)F)C=CC1F | C13H10F3NO
